US05985901
Step 2C (S)-2-[3-(2-tert-butoxycarbonylamino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester
To a solution of (S)-2-[3-(2-amino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester (2.13 g in 30 mL tetrahydrofuran) at 0° C. was added a solution of di-tert-butyl dicarbonate (1.9 g in 6 mL tetrahydrofuran) followed by potassium carbonate (1.2 g in 5 mL water) and the resulting suspension stirred vigourously at 0° C. After 20 minutes, the reaction was quenched by the addition of excess saturated aqueous ammonium chloride and the mixture extracted with ethyl acetate. The organic portion was dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexane:methylene chloride:ethyl acetate, 7.5:7.5:1) to give the title compound (2.52 g).

reactant | di-tert-butyl dicarbonate | 6 mL, 1.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 5 mL, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-2-[3-(2-amino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 30 mL, 2.13 g | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)[C@@H](CN)C)=O | C25H32N2O2
product | (S)-2-[3-(2-tert-butoxycarbonylamino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 2.52 g | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)[C@@H](CNC(=O)OC(C)(C)C)C)=O | C30H40N2O4
